US07105563B2
A solution of a 1-(1H-pyrrol-2-ylmethylene)pyrrolidinium perchlorate salt (5.2 g) in dichloroethane (100 mL) was treated with aluminum chloride (1.93 g). The mixture was cooled to 0° C., and then treated with 2-bromoacetyl chloride (2.2 mL). After stirring overnight at 0° C., the mixture was poured over crushed ice. Ether (60 mL) and sodium bicarbonate (1.93 g) were added and the mixture was stirred until the ice completely melted. The resulting mixture was extracted with ether and concentrated to afford 4-(bromoacetyl)-2-pyrrolecarboxaldehyde (1.88 g).

reactant | 1-(1H-pyrrol-2-ylmethylene)pyrrolidinium perchlorate salt | 5.2 g | Cl(=O)(=O)(=O)[O-].N1C(=CC=C1)C=[N+]1CCCC1
reactant | aluminum chloride | 1.93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromoacetyl chloride | 2.2 mL | BrCC(=O)Cl | C2H2BrClO
reactant | sodium bicarbonate | 1.93 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | Ether | 60 mL | CCOCC | C4H10O
product | 4-(bromoacetyl)-2-pyrrolecarboxaldehyde | 1.88 g | BrCC(=O)C=1C=C(NC1)C=O | C7H6BrNO2
